US07834185B2
(3-Methoxyphenyl)phenylacetonitrile
A solution of 1-(chlorophenylmethyl)-3-methoxybenzene (5.5 g, 24 mmol) in DCM (100 mL) was cooled to 0° C. Trimethylsilyl cyanide (3.5 mL, 26 mmol) was added to the stirred solution. 1.0 M of tin tetrachloride in heptane (0.75 mL, 0.75 mmol) was then added. The solution was stirred for 2 hours, then quenched with MeOH (50 mL). The solvent was removed under reduced pressure. The crude material was then purified via silica gel chromatography to obtain the title compound (2.2 g, 10 mmol).

reactant | 1-(chlorophenylmethyl)-3-methoxybenzene | 24 mmol, 5.5 g | ClC(C1=CC(=CC=C1)OC)C1=CC=CC=C1 | C14H13ClO
reactant | Trimethylsilyl cyanide | 26 mmol, 3.5 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | tin tetrachloride | 1.0 M | [Sn](Cl)(Cl)(Cl)Cl
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | heptane | 0.75 mmol, 0.75 mL | CCCCCCC | C7H16
product | (3-Methoxyphenyl)phenylacetonitrile | 10 mmol, 2.2 g | COC=1C=C(C=CC1)C(C#N)C1=CC=CC=C1 | C15H13NO
